US06787652B1
2-{3-Chloro-4-[3-(benzenesulfonyl)-4-hydroxy-phenoxy]-5-methyl-phenyl}-2H-[1,2,4]triazine-3,5-dione
To a stirred solution of 2-{3-chloro-4-[3-(benzenesulfonyl)-4-methoxy-phenoxy]-5-methyl-phenyl}-2H-[1,2,4]triazine-3,5-dione (0.66 9) in dichloromethane (12 mL) was added boron trichloride (8 mL, 1M in dichloromethane) and the resulting solution was stirred for 4 h. The reaction solution was poured onto ice, allowed to stir for 1 h, the phases separated and the aqueous layer washed with dichloromethane. The combined organic layers were dried (Na2SO4) and concentrated to afford the title compound of this EXAMPLE as a tan foam, 0.52 g. m.p. 78-81° C.

reactant | 2-{3-chloro-4-[3-(benzenesulfonyl)-4-methoxy-phenoxy]-5-methyl-phenyl}-2H-[1,2,4]triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)S(=O)(=O)C1=CC=CC=C1)C)N1N=CC(NC1=O)=O | C23H18ClN3O6S
reactant | boron trichloride | 1M, 8 mL | B(Cl)(Cl)Cl | BCl3
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 2-{3-Chloro-4-[3-(benzenesulfonyl)-4-hydroxy-phenoxy]-5-methyl-phenyl}-2H-[1,2,4]triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)S(=O)(=O)C1=CC=CC=C1)C)N1N=CC(NC1=O)=O | C22H16ClN3O6S
